US05026856
310 mg of 1-cyclopropyl-6-fluoro-7-chloro-1,4-dihydro-4- oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester, 660 mg of 4-chloroisoindoline, 0.42 ml of triethylamine, and 5 ml of anhydrous chloroform were processed in the same manner as in Example 107 to produce 75 mg of 7-(4-chloro-2- isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8- naphthyridine-3-carboxylic acid.

reactant | 1-cyclopropyl-6-fluoro-7-chloro-1,4-dihydro-4- oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 310 mg | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)F)Cl)C1CC1 | C14H12ClFN2O3
reactant | 4-chloroisoindoline | 660 mg | ClC1=C2CNCC2=CC=C1 | C8H8ClN
reactant | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-(4-chloro-2- isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8- naphthyridine-3-carboxylic acid | 75 mg | ClC1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C20H15ClFN3O3
